US04255429
The starting material is prepared as follows: The mixture of 200 g of 3,3-tetramethyleneglutaric anhydride, 57 g of 4-aminopyridine and 1,500 ml of xylene is stirred and refluxed on a water separator for 3 days. After cooling slightly, the xylene solution is decanted from a small amount of oily material, and after cooling in an ice bath, the collected residue dissolved in 1,500 ml of boiling ethanol, the solution cooled to 5°, filtered and the residue dried, to yield the 8-(4-pyridyl)-8-azaspiro[4,5]decan-7,9-dione melting at 208°-211°.

reactant | 3,3-tetramethyleneglutaric anhydride | 200 g | C1CCC2(C1)CC(=O)OC(=O)C2 | C9H12O3
reactant | 4-aminopyridine | 57 g | NC1=CC=NC=C1 | C5H6N2
reactant | xylene | 1,500 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 8-(4-pyridyl)-8-azaspiro[4,5]decan-7,9-dione | N1=CC=C(C=C1)N1C(CC2(CCCC2)CC1=O)=O | C14H16N2O2
